US07253285B2
To a solution of 6-bromo-4-chloro-quinoline (3.0 g, 12.37 mmol) in THF (60 mL) was added dropwise a 2.5M solution of n-butyllithium in hexanes (5.95 mL, 14.84 mmol, 1.1 equiv.) at −70° C. During the addition, the color of the solution was turned to red and it was stirred for 1 h at this temperature. Then, a solution of dimethylformamide (1.91 mL, 24.74 mmol) in THF (10 mL) was added dropwise. After addition, the mixture was allowed to warm to room temperature and stirred for 2 h. Then, the mixture was diluted with saturated ammonium chloride solution and the two layers were separated. The aqueous layer was extracted with ethyl acetate (3×100 mL). The combined organic extracts were washed with brine solution and dried over anhydrous magnesium sulfate. Filtration of the drying agent and removal of the solvent under the vacuum gave the crude brown solid which was purified by using a Biotage silica gel column chromatography to obtain 0.6 g (25% yield) of 4-chloro-quinoline-6-carbaldehyde as a white solid: EI-HRMS m/e calcd for C10H6ClNO (M+) 187.0633, found 187.0638.

reactant | 6-bromo-4-chloro-quinoline | 12.37 mmol, 3.0 g | BrC=1C=C2C(=CC=NC2=CC1)Cl | C9H5BrClN
reactant | n-butyllithium | C(CCC)[Li]
reactant | dimethylformamide | 24.74 mmol, 1.91 mL | CN(C=O)C | C3H7NO
solvent | THF | 60 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | ammonium chloride | [Cl-].[NH4+]
product | 4-chloro-quinoline-6-carbaldehyde | 0.6 g, 25% yield | ClC1=CC=NC2=CC=C(C=C12)C=O | C10H6ClNO
